US06855709B2
5-(1,4-Diazepan-1-yl)-2-pyridinyl Phenyl Sulfone Methanesulfonic Acid Salt
To a mixture of 5-chloro-2-pyridinyl phenyl sulfone (2.0 g, 7.9 mmol) in DMF (50 mL) was added potassium carbonate (2.5 g, 18 mmol) and homopiperazine (1.7 g, 17 mmol). The mixture was heated at 85° C. for 72 h. The mixture then was removed from heat and partitioned between water and ethyl acetate. The layers were separated and the organic layer washed twice with water (2×100 ml). The organic layer was dried over anhydrous magnesium sulfate and concentrated. Column chromatography (silica gel, 75 mL) using 5% CH3OH in CH2Cl2 with 0.7% NH4OH and conversion to the methanesulfonate salt gave 0.182 g of the title compound; IR (drift) 1570, 1304, 1240, 1223, 1207, 1196, 1178, 1145, 1112, 1059, 1052, 785, 715, 688, 645 cm−1. 1H NMR (DMSO-d6) δ2.0, 3.1, 3.2, 3.38, 3.56, 3.78, 7.26, 7.64, 7.88, 8.21, 8.67.

reactant | 5-chloro-2-pyridinyl phenyl sulfone | 7.9 mmol, 2.0 g | C1(=CC=CC=C1)S(=O)(=O)C1=NC=C(C=C1)Cl | C11H8ClNO2S
reactant | potassium carbonate | 18 mmol, 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | homopiperazine | 17 mmol, 1.7 g | N1CCNCCC1 | C5H12N2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 5-(1,4-Diazepan-1-yl)-2-pyridinyl Phenyl Sulfone Methanesulfonic Acid Salt | 0.182 g | CS(=O)(=O)O.C1(=CC=CC=C1)S(=O)(=O)C1=NC=C(C=C1)N1CCNCCC1 | InChI=1S/C16H19N3O2S.CH4O3S/c20-22(21,15-5-2-1-3-6-15)16-8-7-14(13-18-16)19-11-4-9-17-10-12-19;1-5(2,3)4/h1-3,5-8,13,17H,4,9-12H2;1H3,(H,2,3,4)
